Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Codeine / Donnatal / nitroglycerin
 
Attending: ___.
 
Chief Complaint:
Cough 
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ yo female with a PMHx of HTN, ovarian CA s/p resection + 
chemotherapy, and ?CHF who presents with cough and general 
malaise. She told her family over the past several days that she 
was not feeling well. She was unable to describe a specific 
symptom other than a cough that she has been having over the 
past 2 months. Cough is nonproductive per the patients report. 
EMS arrived and checked her vitals which were all stable, the 
patient deferred transfer to the ER at this time. A regularly 
scheduled ___ came to visit later in the morning and noticed 
crackles on lung exam, some wheezing, increased lower extremity 
edema and difficulty breathing, which prompted the family to 
bring the patient to the ER for further evaluation. 

Notably, the patient denies any chest pain, SOB, fever, chills, 
abdominal pain, constipation, rash. She endorses occasional 
diarrhea depending on her diet and importantly increased lower 
extremity swelling that has been worsening over the past several 
days and for which she wears compression stockings. She does not 
use o2 at home. She uses several pillows to sleep at night but 
denies orthopnea. She has not been walking very much ___ knee 
injury she sustained last month. She also uses a chair lift at 
home so is unable to describe if she is SOB walking up stairs.   


Of note she was recently admitted to ___ last month after 
tripping at home and injuring her knee. She went to ___ 
___ after this hospitalization and was discharged to 
home 8 days ago on ___. Notably, during this stay a CXR was 
done on ___ given persistent cough at the rehab. Did not show 
any evidence of PNA or volume overload per discussion with the 
RN at ___. The patient was started on 5 day Zpack and 
discharged to home on ___ with her grandson. She has ___, ___ 
and OT services at home. She lives at home with her husband who 
recently had a stroke and requires similar level of services. 

The only 3 medications that the patient is currently taking are 
atenolol, amlodipine/benazepril, and famotidine. The patient 
manages her own medications. 

She is a proud grandmother and was a ___ for many years on 
the ___. 

In the ED, initial vitals were: 98.6, HR 71, BP 132/50, RR 18, 
SPO2 95% RA 
Labs were notable for: 

___: 13.5  PTT: 30.0  INR: 1.2  
Lactate:1.6
Chem 7: K 4.5, Cr 2.4, BUN 109 
CBC: WBC 12.2 (83.7% PMNs), Hgb 7.1, Hct 23.2, Plt 413

Trop-T: 0.04  
___: ___

Patient was given: Cefazolin 1g, ASA 324mg, and Levofloxacin 750 
mg,  2x Blood Cx sent  
Studies: 
CXR- There are bibasilar opacities silhouetting the 
hemidiaphragm suggestive of  layering effusions bilaterally. 
Superiorly the lungs are clear. Mild cardiomegaly is similar 
compared to prior. No acute osseous abnormalities. Impression:  
Bilateral pleural effusions with adjacent atelectasis.

EKG: SR, VR 70, PR 149, QTC 467/486, left axis deviation 
 
Vitals at the time of transfer: 98.5, HR 68, BP 137/51, RR 20, 
94% Nasal Cannula 

On the floor, she only endorses a non productive cough that has 
been present for the past several months. She feels well and is 
chatting about her grandchildren. ROS as above. 

Review of systems:
(+) Per HPI
(-) Denies fever, chills, night sweats. Denies headache, sinus 
tenderness, rhinorrhea or congestion. Denies shortness of 
breath. Denies chest pain or tightness, palpitations. Denies 
nausea, vomiting, constipation or abdominal pain. No recent 
change in bowel or bladder habits. No dysuria. Denies 
arthralgias or myalgias.

 
Past Medical History:
Hypertension
Headaches
Spinal stenosis
GERD
Ovarian CA s/p TAH/BSO and chemo
Raynaud's
Neurofibroma on aorta
Lower GI bleed s/p syncopal event
IBD
Internal hemorrhoids
Migraines 
Chronic kidney disease 
Esophagitis 
s/p bilateral TKAs
s/p cholecystectomy 
 
Social History:
___
Family History:
Unknown 
 
Physical Exam:
ADMISSION PHYSICAL EXAM 
Vitals: 97.8, HR= 72, BP 132/52, RR 24, SPO2 94% 2L
General: Alert, oriented, no acute distress
HEENT: Sclera anicteric, MMM, oropharynx clear, EOMI, PERRL
Neck: Supple, no LAD, JVP elevated to level of ear lobe
CV: Regular rate and rhythm, normal S1 + S2, systolic murmur ___ 
heard best over LLSB, rubs, gallops
Lungs: Audible wheezes, no appreciable wheezes on auscultation, 
no clear use of accessory muscles, bibasilar crackles at bases
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
GU: No foley
Ext: Warm, well perfused, distal pulses difficult to appreacite 
___ edema, ___ pitting edema b/l to level of knees, moderately 
tender to palpation anterior shins, no posterior calf tenderness
Neuro: CNII-XII intact, ___ strength upper/lower extremities, 
grossly normal sensation, gait deferred.

DISCHARGE PHYSICAL EXAM 
Vitals: T: 98.3 BP:129/61 P:94 R:18 O2:93 RA
General: Alert, oriented, appears tired, coughing less 
frequently than on admission
HEENT: Sclera anicteric, mucous membranes dry, oropharynx clear, 
EOMI grossly, PERRL, conjunctival pallor
Neck: Supple, no LAD 
Cardiac: Irregularly irregular, normal S1 + S2, systolic 
ejection murmur ___ heard best over ___, no rubs, gallops
Lungs: Decreased breath sounds at bases, crackles midway up lung 
fields.
Abdomen: Soft, non-tender, non-distended, bowel sounds present, 
no organomegaly, no rebound or guarding
Ext: Warm, well perfused, distal pulses difficult to appreacite 
___ edema, 2+ pitting edema b/l to level of calves, moderately 
tender to palpation, no posterior calf tenderness
Neuro: CNII-XII intact, grossly normal sensation and strength, 
gait appropriate.

 
Pertinent Results:
ADMISSION LABS
___ 01:40PM   PLT COUNT-413*#
___ 01:40PM   NEUTS-83.7* LYMPHS-9.4* MONOS-4.9* EOS-0.4* 
BASOS-0.5 IM ___ AbsNeut-10.21* AbsLymp-1.15* AbsMono-0.60 
AbsEos-0.05 AbsBaso-0.06
___ 01:40PM   WBC-12.2*# RBC-2.38* HGB-7.1* HCT-23.2* 
MCV-98 MCH-29.8 MCHC-30.6* RDW-14.1 RDWSD-49.7*
___ 01:40PM   CK-MB-5 cTropnT-0.04* ___
___ 01:40PM   estGFR-Using this
___ 01:40PM   GLUCOSE-109* UREA N-46* CREAT-2.4*# 
SODIUM-139 POTASSIUM-4.5 CHLORIDE-106 TOTAL CO2-18* ANION GAP-20
___ 01:43PM   LACTATE-1.6
___ 03:10PM   ___ PTT-30.0 ___

DISCHARGE LABS
___ 06:40AM BLOOD WBC-13.4* RBC-3.07*# Hgb-9.4*# Hct-29.2*# 
MCV-95 MCH-30.6 MCHC-32.2 RDW-15.3 RDWSD-52.4* Plt ___
___ 06:40AM BLOOD Plt ___
___ 06:40AM BLOOD Glucose-85 UreaN-31* Creat-1.7* Na-138 
K-4.7 Cl-103 HCO3-25 AnGap-15
___ 06:40AM BLOOD Calcium-8.5 Phos-3.8 Mg-2.2

PERTINENT LABS DURING ADMISSION 
___ 05:50AM BLOOD Ret Aut-2.3* Abs Ret-0.05
___ 01:40PM BLOOD CK-MB-5 cTropnT-0.04* ___
___ 10:13PM BLOOD CK-MB-2 cTropnT-<0.01
___ 04:02AM BLOOD CK-MB-5 cTropnT-0.08*
___ 05:25PM BLOOD CK-MB-4 cTropnT-0.10*
___ 06:25AM BLOOD cTropnT-0.07*
___ 02:46PM BLOOD CK-MB-1 cTropnT-0.09*
___ 07:05AM BLOOD cTropnT-0.10*
___ 05:50AM BLOOD calTIBC-283 VitB12-266 Hapto-318* 
Ferritn-108 TRF-218
___ 10:13PM BLOOD TSH-1.8

MICRO
C. difficile DNA amplification assay (Final ___: Negative 
for toxigenic C. difficile by the Illumigene DNA amplification 
assay. 

URINE CULTURE (Final ___. 10,000-100,000 
ORGANISMS/ML.

STUDIES 

CXR ___
There are bibasilar opacities silhouetting the hemidiaphragm 
suggestive of 
layering effusions bilaterally.  Superiorly the lungs are clear. 
Mild 
cardiomegaly is similar compared to prior.  No acute osseous 
abnormalities. 

IMPRESSION: Bilateral pleural effusions with adjacent 
atelectasis. 

Renal US ___
Of note, there is a pleural effusion in the right lung base. The 
right kidney measures 9.2 cm. The left kidney measures 8.2 cm. 
There is no 
hydronephrosis, stones, or masses bilaterally.  Normal cortical 
echogenicity and corticomedullary differentiation are seen 
bilaterally. 
The bladder is moderately well distended and normal in 
appearance. 
IMPRESSION:  
Right lung base pleural effusion.  Normal renal ultrasound. 

CXR ___
IMPRESSION:  
Moderate to large bilateral pleural effusions are larger, mild 
to moderate 
pulmonary edema and moderate to severe cardiomegaly are worse, 
all compared to ___.  No pneumothorax. 

 
Brief Hospital Course:
___ y/o female with a PMHx of HTN, ovarian CA s/p resection + 
chemotherapy, and ?CHF who presented with cough, new oxygen 
requirement and lower extremity swelling concerning for CHF 
exacerbation, with hypoxia in setting of anemia and aspiration 
who developed paroxysmal atrial fibrillation during admission. 

# Aspiration. 
# Dysphagia: 
She was noted to be coughing on admission with eating and 
drinking. Speech and Swallow evaluation on ___ showed overt 
aspiration with all consistencies, without improvement in 
modifications or techniques. During admission, it was noted that 
the patient looked clinically worse whenever she was eating, 
with increased coughing and difficulty breathing, suggesting 
overt aspiration with liquids and solids consistently. She 
improved when not eating or drinking. The patient and family 
deferred any further dysphagia work up and did not want feeding 
tubes. She was continued on a mechanical soft diet, 
understanding the risks of aspiration. She was treated with 5 
days of Levofloxacin for initial concern of CPAP and 8 days of 
Augmentin for aspiration pneumonia/pneumonitis (course to 
complete ___ 

# Paroxysmal AFib, with RVR. 
Sinus Rhythm on admission, without any prior history of atrial 
fibrillation. She developed Afib, with RVR, which was managed 
with IV metoprolol and starting PO metoprolol. During RVR, she 
experienced associated chest discomfort with mild troponin 
elevation (0.10), likely due to demand ischemia, which improved 
with conversion back to NSR. She converted back and forth 
between NSR and Afib for several days, with pauses (longest 10 
seconds) occurring at time of conversion between Afib and NSR. 
She was asymptomatic during these pauses. RVR episodes seemed to 
occur shortly after eating, suggesting that brief hypoxic 
episodes associated with aspiration were inciting events. She 
was continued on metoprolol succinate 100mg PO daily and was 
discharged in NSR with HR in the ___. Although she had a 
CHADS 3, therapeutic anticoagulation was deferred due to high 
fall risk, anemia and recent h/o guaiac positive stool. 
Furthermore, anticoagulation was not within the patients goals 
of care. 

# Anemia. 
Chronic, normocytic anemia likely acute blood loss anemia on 
chronic anemia of chronic disease. Iron studies and B12 studies 
wnl. Stools were guiac positive and dark consistent with UGI 
bleeding source. Her anemia was likely a combination of slow GIB 
with anemia of chronic disease (CKD). She received 2 units pRBC 
for Hgb <7. We discussed the possibility of endoscopy/colonscopy 
with both the patient and her grandson and they both deferred 
further testing at this time, understanding that her anemia 
would likely persist. She was started on PPI BID while inpatient 
and continued on PPI qd on discharge. Ultimately patient 
discharged home with hospice care.

# Leukocytosis. She had a WBC count persistently stable around 
13 during admission, with negative blood and urine cultures. She 
was treated for possible CAP with Levofloxacin and Augmentin for 
presumed aspiration pneumonia/pneumonitis. She had persistent 
diarrhea but C diff was negative. Much of her WBC elevation was 
thought to be due to continued aspiration events, with 
contributions from stress response from Afib with RVR episodes. 
She was never febrile.

# Acute diastolic CHF exacerbation. LVEF >55%. She was volume 
overloaded on admission with BNP 11,102. Last TTE from ___ 
showed preserved LV and RV function. Repeat TTE was not done 
during admission as it would not have changed management. She 
was diuresed with 10mg IV Lasix qd for several days with 
decrease in Cr. Interval CXR showed continued volume overload, 
likely due to mild flash pulmonary edema from episodes of Afib 
with RVR. She was discharged on 20mg PO Lasix. She required 3L 
NC o2 at all times during admission and was discharged with home 
o2. 

# Acute renal failure. 
Cr elevated at 2.4 on admission and downtrended to 1.7. Etiology 
was likely mixed prerenal and intrarenal from CHF and subacute 
renal hypoperfusion leading to element of ATN. Renal ultrasound 
was normal. ACE-I was held and not continued on discharge. 

# HTN. Home atenolol and ace-i were held on admission. Home 
amlodipine was continued and metoprolol was added (as above for 
Afib) in place of atenolol. ACE-I was not restarted on discharge 
given normotension and elevated Cr.  

# GERD. Home famotidine was switched to pantoprazle.

# GOC. We had many goals of care discussion with ___ and ___ 
HCP, grandson ___. Her code status was confirmed DNR/DNI. 
___ stated her goals to return home to be with her husband and 
family, understanding that she was at risk for continued 
aspiration, blood loss from her GI tract and further episodes of 
Afib with RVR. She preferred to be treated symptomatically, 
rather than pursuing further work-up for these issues. She was 
discharged with home hospice services in addition to home health 
aid services already in place, for nearly 24 hour assistance. ___ 
recommended continued home ___ and agreed to with discharge to 
home given services in place. 

*** Transitional Issues *** 

- Discharged to home with hospice 
- New oxygen requirement 3L NC, discharged home with oxygen 
- Mechanical soft diet (no change in level of aspiration with 
any consistency when evaluated by nutrition) 
- To complete 8 day course of Augmentin for aspiration pneumonia 
on ___
- Started loperamide for frequent diarrhea (C. diff negative, 
guiac positive) 
- Added metoprolol succinate 100mg qd for Afib
- Held home ACE-I in setting of Cr elevation and normotension. 
Consider restarting as an outpatient pending ambulatory blood 
pressures.  

# CODE: DNR/DNI
# CONTACT: Grandson ___: ___, Son ___: ___

 
___ on Admission:
The Preadmission Medication list is accurate and complete.
1. Atenolol 25 mg PO DAILY 
2. Amlodipine 5 mg PO DAILY 
3. benazepril 20 mg oral DAILY 
4. Famotidine 20 mg PO TID 

 
Discharge Medications:
1. Amlodipine 5 mg PO DAILY 
RX *amlodipine 5 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
2. Acetaminophen 650 mg PO Q8H:PRN pain, fever 
RX *acetaminophen 650 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*0
3. Chloraseptic Throat Spray 1 SPRY PO Q4H:PRN cough 
RX *phenol [Chloraseptic Throat Spray] 1.4 % 1 spray into mouth 
q4 Disp #*1 Package Refills:*0
4. Amoxicillin-Clavulanic Acid ___ mg PO Q12H 
RX *amoxicillin-pot clavulanate 500 mg-125 mg 1 tablet(s) by 
mouth twice a day Disp #*7 Tablet Refills:*0
5. Furosemide 20 mg PO DAILY 
RX *furosemide 20 mg 1 tablet(s) by mouth daily Disp #*30 Tablet 
Refills:*0
6. Ipratropium Bromide Neb 1 NEB IH Q6H 
RX *ipratropium bromide [Atrovent HFA] 17 mcg/actuation 1 q6 
Disp #*2 Inhaler Refills:*0
7. Metoprolol Succinate XL 100 mg PO DAILY 
RX *metoprolol succinate 100 mg 1 tablet(s) by mouth daily Disp 
#*30 Tablet Refills:*0
8. LOPERamide 2 mg PO QID:PRN diarrhea 
Take as needed to prevent diarrhea.  
RX *loperamide [Anti-Diarrhea] 2 mg 1 by mouth four times daily 
Disp #*80 Tablet Refills:*0
9. Pantoprazole 40 mg PO Q24H 
RX *pantoprazole 40 mg 1 tablet(s) by mouth daily Disp #*30 
Tablet Refills:*0

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
PRIMARY DIAGNOSIS: 
Aspiration Pneumonia/Pneumonitis 
Acute diastolic heart failure exacerbation 
Atrial Fibrillation (with Rapid Ventricular Response) 
Acute Kidney Injury 

SECONDARY DIAGNOSIS:
Hypertension 
GERD 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Dear ___, 

It was a pleasure taking care of you during your hospitalization 
at ___. You were hospitalized with a persistent cough. It was 
determined that when you swallow food, some of it goes into your 
lungs instead of into your stomach. You discussed the risks of 
this with your doctors and family and decided that you did not 
want a feeding tube and would like to continue eating your 
regular diet. 

You also had diarrhea, for which we gave you antidiarrheal 
medications. 

Your stool had evidence of blood in it and you received 2 blood 
transfusions for low blood counts and were put on a medications 
(Pantoprazole) to help prevent further bleeding from your 
gastrointestinal tract. 

Your heart went into an abnormal rhythm called Atrial 
Fibrillation. You were given medications (Metoprolol) to help 
slow down your heart and it returned to a normal rhythm. 

We had many goals of care discussions with you and your grandson 
___ and ultimately decided that you wanted to return home to 
be with your family. We set up home hospice services. 

We wish you the best, 

Your ___ Treatment Team 
 
Followup Instructions:
___